US07253286B2
N-(4-Fluorophenyl)-N′-{4-[(7-oxo-5,6,7,8-tetrahydro[1,8]naphthyridin-4-yl)oxy]phenyl}urea
4-[(7-Oxo-5,6,7,8-tetrahydro[1,8]naphthyridin-4-yl)oxy]aniline (43 mg), p-fluorophenyl isocyanate (28 mg), tetrahydrofuran (5 ml) and dimethylformamide (2 ml) were stirred at room temperature for 30 minutes. Water was added dropwise at room temperature until precipitation of crystals, and these were filtered out to obtain 48 mg of the target substance as white crystals.

reactant | 4-[(7-Oxo-5,6,7,8-tetrahydro[1,8]naphthyridin-4-yl)oxy]aniline | 43 mg | O=C1CCC=2C(=CC=NC2N1)OC1=CC=C(N)C=C1 | C14H13N3O2
reactant | p-fluorophenyl isocyanate | 28 mg | FC1=CC=C(C=C1)N=C=O | C7H4FNO
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
reactant | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | N-(4-Fluorophenyl)-N′-{4-[(7-oxo-5,6,7,8-tetrahydro[1,8]naphthyridin-4-yl)oxy]phenyl}urea | FC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)OC1=CC=NC=2NC(CCC12)=O | C21H17FN4O3
